US05773449
7-(1-Piperazinyl)quinoline-4(1H)-thione (Compound 54)
4-Hydroxy-7-(4-methoxycarbonyl-1-piperazinyl)quinoline (0.32 g, 1.1 mmol) dissolved in methanol (5 ml) was added with 2N sodium hydroxide (1.6 ml) and stirred with heating for 12 hours. After allowing to cool, methanol was removed under reduced pressure. The residue was added with water (10 ml) and adjusted by 5% hydrochloric acid to pH 7 and the water was removed under reduced pressure. This residue was siispended in pyridine (5 ml), added with phosphorus pentasulfide (0.25 g, 1.1 mmol) and stirred at 100° C. for 1.5 hours. After allowing to cool, pyridine was removed under reduced pressure and the residue was purified by preparative TLC (Merck Art. 13895, methylene chloride : methanol : ammonia water=50 : 10 : 1) to obtain 21 mg (8%) of the titled compound.

reactant | 4-Hydroxy-7-(4-methoxycarbonyl-1-piperazinyl)quinoline | 1.1 mmol, 0.32 g | OC1=CC=NC2=CC(=CC=C12)N1CCN(CC1)C(=O)OC | C15H17N3O3
reactant | sodium hydroxide | 2N, 1.6 ml | [OH-].[Na+]
reactant | phosphorus pentasulfide | 1.1 mmol, 0.25 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | methanol | 5 ml | CO | CH4O
product | 7-(1-Piperazinyl)quinoline-4(1H)-thione | 21 mg, 8% | N1(CCNCC1)C1=CC=C2C(C=CNC2=C1)=S | C13H15N3S
